US08937087B2
To a mixture of methyl (2-fluoro-6-hydroxyphenyl)carbamate (346 mg) and MeCN (30 mL) was added p-toluenesulfonic acid monohydrate (711 mg), followed by stirring at room temperature for 5 minutes. To the reaction mixture was added N-chlorosuccinimide (250 mg), followed by stirring at room temperature overnight. The reaction mixture was diluted with chloroform, and washed with a 10% aqueous sodium thiosulfate solution and brine in this order. The organic layer was dried over Na2SO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: Hex/EtOAc=80/20-70/30) to obtain methyl (3-chloro-2-fluoro-6-hydroxyphenyl)carbamate (173 mg).

reactant | methyl (2-fluoro-6-hydroxyphenyl)carbamate | 346 mg | FC1=C(C(=CC=C1)O)NC(OC)=O | C8H8FNO3
reactant | MeCN | 30 mL | CC#N | C2H3N
reactant | p-toluenesulfonic acid monohydrate | 711 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-chlorosuccinimide | 250 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl (3-chloro-2-fluoro-6-hydroxyphenyl)carbamate | 173 mg | ClC=1C(=C(C(=CC1)O)NC(OC)=O)F | C8H7ClFNO3
